US07553873B2
A solution of 2-[(Biphenyl-4-carbonyl)-amino]-pentanedioic acid 5-methyl ester (400 mg, 1.2 mmol, 1 equiv.) in DMF (10 mL) was added to EDCI (337 mg, 1.8 mmol, 1.5 equiv.). The solution was stirred at room temperature under N2 for 40 min. 4-Amino-1-butanol (0.11 mL, 1.2 mmol, 1 equiv.) was added, followed by addition of Et3N (0.41 mL, 2.9 mmol, 2.5 equiv.) and DMAP (72 mg, 0.59 mmol, 0.5 equiv.). The mixture was stirred overnight under N2. The reaction mixture was then poured into cold water and a solid precipitated from the solution. The solid was collected by filtration and dried under vacuum to give 229 mg of 4-[(Biphenyl-4-carbonyl)-amino]-4-(4-hydroxy-butylcarbamoyl)-butyric acid methyl ester in 47% yield.

reactant | 2-[(Biphenyl-4-carbonyl)-amino]-pentanedioic acid 5-methyl ester | 1.2 mmol, 400 mg, 1 equiv. | COC(CCC(C(=O)O)NC(=O)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C19H19NO5
reactant | EDCI | 1.8 mmol, 337 mg, 1.5 equiv. | CCN=C=NCCCN(C)C | C8H17N3
reactant | 4-Amino-1-butanol | 1.2 mmol, 0.11 mL, 1 equiv. | NCCCCO | C4H11NO
reactant | Et3N | 2.9 mmol, 0.41 mL, 2.5 equiv. | CCN(CC)CC | C6H15N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 0.59 mmol, 72 mg, 0.5 equiv. | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | water | O | H2O
product | 4-[(Biphenyl-4-carbonyl)-amino]-4-(4-hydroxy-butylcarbamoyl)-butyric acid methyl ester | 229 mg, 47% yield | COC(CCC(C(NCCCCO)=O)NC(=O)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C23H28N2O5
